US03962441
2-(3-Nitro-4-hydroxyphenyl) propionitrile (38.4 g., 0.2 mole.) was suspended in absolute ethanol (250 ml.) and hydrogenated at 4 atmospheres pressure and room temperature over 10% palladium on charcoal. Hydrogenation was complete in 3.8 hours. The catalyst was removed by filtration. Evaporation of the filtrate yielded 2-(3-amino-4-hydroxyphenyl) propionitrile (17 g.), m.p. 110°C.

reactant | 2-(3-Nitro-4-hydroxyphenyl) propionitrile | 0.2 mole, 38.4 g | [N+](=O)([O-])C=1C=C(C=CC1O)C(C#N)C | C9H8N2O3
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 2-(3-amino-4-hydroxyphenyl) propionitrile | 17 g | NC=1C=C(C=CC1O)C(C#N)C | C9H10N2O
